US08426427B2
2,3-Difluoro-6-(2-methoxyethoxy)benzoic acid
To a suspension of 3,4-difluorophenol (2 g) and cesium carbonate (7.51 g) in N,N-dimethylformamide (15 mL) was added 2-methoxyethyl bromide (2.14 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water twice and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give 3,4-difluoro-1-(2-methoxyethoxy)-benzene (2.49 g). To the solution of the obtained 3,4-difluoro-1-(2-methoxyethoxy)benzene (1.47 g) in tetrahydrofuran (39 mL) was added n-butyllithium (2.64 mol/L n-hexane solution, 3.25 mL) at −78° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added dry ice (10 g), and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. To the reaction mixture was added 2 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (1.48 g).

reactant | 3,4-difluoro-1-(2-methoxyethoxy)benzene | 1.47 g | FC=1C=C(C=CC1F)OCCOC | C9H10F2O2
reactant | n-butyllithium | 2.64 mol/L, 3.25 mL | C(CCC)[Li]
reactant | dry ice | 10 g | C(=O)=O | CO2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 39 mL | O1CCCC1 | C4H8O
product | 2,3-Difluoro-6-(2-methoxyethoxy)benzoic acid | 1.48 g | FC1=C(C(=O)O)C(=CC=C1F)OCCOC | C10H10F2O4
